US09399623B2
6-Chloro-2-cyclohexyl-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide (48)
The title compound was synthesized according to the procedure described in example 126 using 6-chloro-2-cyclohex-1-enyl-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide, palladium on carbon and triethylsilane. 1H NMR (400 MHz, DMSO-d6): δ ppm 8.78-8.80 (m, 1H), 7.96-7.95 (m, 1H), 7.76 (d, J=9.04 Hz, 1H), 7.59 (d, J=8.80 Hz, 1H), 3.25-3.40 (m, 2H), 2.85-2.95 (m, 1H), 2.01-2.15 (m, 2H), 1.86-1.99 (m, 10H), 1.55-1.60 (m, 2H), 1.40-1.45 (m, 2H), 1.23-1.26 (m, 3H). m/z: 421 [M+H]+

reactant | 6-chloro-2-cyclohex-1-enyl-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1=CCCCC1)F | C23H25ClF2N2O
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
catalyst | palladium on carbon | [Pd] | Pd
product | 6-Chloro-2-cyclohexyl-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CCCCC1)F | C23H27ClF2N2O
